US08377923B2
Potassium hydroxide (87 mg) was added to a mixture of 3-bromo-4-[(1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}cyclopropyl)oxy]benzamide (250 mg) and ethyleneglycol (6 ml), followed by stirring at 130° C. for 3 hours. The reaction solution was cooled to room temperature, and water was added thereto, followed by washing with ethyl acetate. The aqueous layer was acidified with 1M hydrochloric acid and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting product was solidified with diisopropylether and washed to obtain, as a colorless solid, 3-bromo-4-[(1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}cyclopropyl)oxy]benzoic acid (71 mg).

reactant | Potassium hydroxide | 87 mg | [OH-].[K+]
reactant | 3-bromo-4-[(1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}cyclopropyl)oxy]benzamide | 250 mg | BrC=1C=C(C(=O)N)C=CC1OC1(CC1)C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F | C20H16BrF3N4O2
reactant | ethyleneglycol | 6 ml | C(CO)O | C2H6O2
solvent | water | O | H2O
product | 3-bromo-4-[(1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}cyclopropyl)oxy]benzoic acid | 71 mg | BrC=1C=C(C(=O)O)C=CC1OC1(CC1)C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F | C20H15BrF3N3O3
